US06436982B1
1-Methyl-5-(2-imidazolin-2-ylamino)benzimidazole.
A solution of 1-methyl-5-aminobenzimidazole (0.15 g, 1.1 mmol) and ISA (0.30 g, 2.2 mmol) in 3 ml of isobutanol was stirred at reflux for 12 h. The reaction mixture was concentrated in vacuo, yielding an oily residue which was purified on silica gel column chromatography (NH3 sat'd 20% isopropanol/EtOAc) to yield 0.12 g (0.56 mmol, 51%) of the desired product. The product obtained was converted to the fumarate salt and recrystallized from isopropanol to afford 0.11 g (30%) of the product as a white-crystal: mp 210-211° C.; Anal. Calc. for C11H13N5.1.0C4H4O4. 0.3H2O requires C, 35.36; H, 5.28; N,20.74. Found: C, 53.67; H, 5.13; N, 20.70.

reactant | 1-methyl-5-aminobenzimidazole | 1.1 mmol, 0.15 g | CN1C=NC2=C1C=CC(=C2)N | C8H9N3
solvent | isobutanol | 3 ml | C(C(C)C)O | C4H10O
product | 1-Methyl-5-(2-imidazolin-2-ylamino)benzimidazole | 0.56 mmol, 0.12 g, 51% | CN1C=NC2=C1C=CC(=C2)NC=2NCCN2 | C11H13N5
